### PR TITLE
[Merged by Bors] - feat : `replace` tactic (part 1)

### PR DESCRIPTION
**Pull request by arthurpaulino**

### CODE REVIEW

File: test/Replace.lean [hunk 1]
```diff
@@ -0,0 +1,41 @@
...
+  have : Nat := 0
+  have : Int := 0
+  assumption -- original `this` is not absent but...
+
+example : Nat := by
+  have : Nat := 0
+  replace : Int := 0
+  fail_if_success assumption -- original `this` is absent now
+  replace : Nat := 0
+  assumption
```
Comment (digama0) [inline test/Replace.lean:41]: Add a test where the old hypothesis can't be cleared because the goal or the new hypothesis depends on it?

File: test/Replace.lean [hunk 2]
```diff
@@ -0,0 +1,47 @@
...
+
+-- trying to replace the type of a variable when the goal depends on it
+
+example {a : Nat} : a = a := by
+  fail_if_success replace a : Int := 0 -- tactic 'clear' failed, target depends on 'a'
```
Comment (digama0) [inline test/Replace.lean:46]: Did you check the lean 3 behavior? I think it just doesn't clear anything in this case.

Comment (dwrensha) [reply test/Replace.lean:46]: The Lean 3 behavior is indeed to fail:
```
import tactic.interactive

example {a : nat} : a = a :=
begin
  replace a : int := 1,
  -- 5:3: clear tactic failed, target type depends on 'a'
  -- state:
  -- a : ℕ,
  -- a : ℤ
  -- ⊢ a = a
end
```
